US05137892
Step 1: 2-bromomethyl-1,4-dioxa-7-azaspiro[4.4]nonane benzyl carbamate
A 1.00 g (4.56 mmol) sample of 3-pyrrolidinone benzyl carbamate, from Step 2 Example 1, was dissolved in 20 mL of toluene with 1.00 g (11.4 mmol) of 3-bromo-1,2-propanediol and 0.043 g (0.23 mmol) of p-toluenesulfonic acid and heated at 110° C. for 24 hours. The reaction solution was poured into 20% sodium bicarbonate solution and the mixture extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent removed under vacuum to afford 1.22 g of the title compound as a dark liquid: MS M/Z 356 (M). NMR: d 2.06 (m, 2H), 3.32 (m, 1H), 3.44 (m, 2H), 3.55 (m, 3H), 3.91 (m, 1H), 4.11 (m, 1H), 4.37 (m, 1H), 5.13 (s, 2H), 7.35 (m, 5H).

reactant | 3-pyrrolidinone benzyl carbamate | C(C1=CC=CC=C1)NC(O)=O.N1CC(CC1)=O
reactant | 3-bromo-1,2-propanediol | 11.4 mmol, 1.00 g | BrCC(CO)O | C3H7BrO2
reactant | p-toluenesulfonic acid | 0.23 mmol, 0.043 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromomethyl-1,4-dioxa-7-azaspiro[4.4]nonane benzyl carbamate | 1.22 g | C(C1=CC=CC=C1)NC(O)=O.BrCC1OC2(OC1)CNCC2 | InChI=1S/C8H9NO2.C7H12BrNO2/c10-8(11)9-6-7-4-2-1-3-5-7;8-3-6-4-10-7(11-6)1-2-9-5-7/h1-5,9H,6H2,(H,10,11);6,9H,1-5H2
